US08729271B2
4-Iodo-1-methylpyridin-2(1H)-one
A solution of 4-iodo-2-pyridone (500 mg), sodium hydride (109 mg) and methyl iodide (482 mg) in dimethylformamide (5.0 mL) was stirred at room temperature for 4 hr. Additional sodium hydride (109 mg) and methyl iodide (482 mg) were added and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with chloroform and washed with saturated aqueous sodium hydrogen carbonate solution. After extraction with chloroform, the organic phase was dried over anhydrous magnesium sulfate. The desiccant was filtered off, and the solvent was then distilled off under reduced pressure. The resulting residue was purified by column chromatography (silica gel cartridge, chloroform:methanol=98:2-96:4) to afford the title compound (341 mg).

reactant | 4-iodo-2-pyridone | 500 mg | IC1=CC(NC=C1)=O | C5H4INO
reactant | sodium hydride | 109 mg | [H-].[Na+]
reactant | methyl iodide | 482 mg | CI | CH3I
reactant | sodium hydride | 109 mg | [H-].[Na+]
reactant | methyl iodide | 482 mg | CI | CH3I
solvent | dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-Iodo-1-methylpyridin-2(1H)-one | 341 mg | IC1=CC(N(C=C1)C)=O | C6H6INO
